US08530388B2
A solution of 2-(4′-chloro-4-ethylbiphen-3-yl)-3-methoxycyclopent-2-enone (200 mg, 0.61 mmol) in acetone (4 ml) and 2M aqueous hydrochloric acid (4 ml) is heated at 120° C. for 20 minutes under microwave irradiation. The reaction mixture is diluted with water (20 ml) and 2M aqueous hydrochloric acid (10 ml), and the crude product is extracted with ethyl acetate (3×15 ml). The organic extracts are combined, washed with brine (10 ml), dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated to dryness under reduced pressure to give 2-(4′-chloro-4-ethylbiphen-3-yl)-1,3-cyclopentanedione.

reactant | 2-(4′-chloro-4-ethylbiphen-3-yl)-3-methoxycyclopent-2-enone | 0.61 mmol, 200 mg | ClC1=CC=C(C=2C=CC(=C(C2)C=2C(CCC2OC)=O)CC)C=C1 | C20H19ClO2
solvent | acetone | 4 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 2M, 4 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | hydrochloric acid | 2M, 10 ml | Cl | ClH
product | 2-(4′-chloro-4-ethylbiphen-3-yl)-1,3-cyclopentanedione | ClC1=CC=C(C=2C=CC(=C(C2)C2C(CCC2=O)=O)CC)C=C1 | C19H17ClO2
